US07354917B2
(iii) 1-[3-(4-Cyanophenyl)propyl]-3,3-dimethyl-1-(2-oxoethyl)urea
Oxalyl chloride (4.84 g, 0.038 mol) was added dropwise to a stirred solution of DMSO (5.9 g, 0.0763 mol) and dichloromethane (100 mL) at −78° C. After 15 min at the same temperature, 1-[3-(4-cyanophenyl)propyl]-1-(2-hydroxyethyl)-3,3-dimethylurea (7 g, 0.0254 mol) in dichloromethane was added and stirring continued for 3 h under a nitrogen atmosphere. Triethylamine (12.8 g, 0.127 mol) was added (dropwise), and the reaction mixture was then warmed slowly to −30° C. The reaction mixture was quenched with 10% citric acid (aq.) and extracted with dichloromethane. The organic layer was washed with water and brine, dried over sodium sulfate and concentrated to yield 6.5 g of the crude title compound, which was used without further purification.

reactant | Oxalyl chloride | 0.038 mol, 4.84 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 0.0763 mol, 5.9 g | CS(=O)C | C2H6OS
reactant | 1-[3-(4-cyanophenyl)propyl]-1-(2-hydroxyethyl)-3,3-dimethylurea | 0.0254 mol, 7 g | C(#N)C1=CC=C(C=C1)CCCN(C(=O)N(C)C)CCO | C15H21N3O2
reactant | Triethylamine | 0.127 mol, 12.8 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 1-[3-(4-Cyanophenyl)propyl]-3,3-dimethyl-1-(2-oxoethyl)urea | 6.5 g | C(#N)C1=CC=C(C=C1)CCCN(C(=O)N(C)C)CC=O | C15H19N3O2
